US04837333
A stirred solution of 2-methoxy-4-methylbenzoic acid (35 g, 0.211 mol) in benzene (400 ml) was treated dropwise with oxalyl chloride (40 g, 0.317 mol). After 3 hours at room temperature the solvent and excess oxalyl chloride were evaporated under reduced pressure and the resulting crude acid chloride residue was treated with ethanol (200 ml) and heated under reflux for 1 hour. The solvent was evaporated off under reduced pressure to give the crude product which was purified by column chromatography (silica gel, dichloromethane) to yield ethyl 2-methoxy-4-methylbenzoate as a pale yellow oil having the following structural characteristics:

reactant | 2-methoxy-4-methylbenzoic acid | 0.211 mol, 35 g | COC1=C(C(=O)O)C=CC(=C1)C | C9H10O3
reactant | oxalyl chloride | 0.317 mol, 40 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | ethyl 2-methoxy-4-methylbenzoate | COC1=C(C(=O)OCC)C=CC(=C1)C | C11H14O3
